US07728129B2
Sodium [4-(4-Cyclopropyl-piperazine-1-carbonyl)-phenyl]-hydroxy-methanesulfonate
A 100 mL flask was charged with 4-(4-cyclopropyl-piperazine-1-carbonyl)-benzaldehyde (2.58 g, 10.0 mmol, 1.0 eq), acetonitrile (30 mL), and water (1.0 mL) under nitrogen atmosphere. The reaction mixture was heated to 50° C. A solution of NaHSO3 (1.14 g, 11.0 mol, 1.1 eq) in water (2.0 mL) was added dropwise over 5 min. The reaction mixture was then cooled to 17° C. The product was collected by filtration as a white solid.

reactant | 4-(4-cyclopropyl-piperazine-1-carbonyl)-benzaldehyde | 10.0 mmol, 2.58 g, 1.0 eq | C1(CC1)N1CCN(CC1)C(=O)C1=CC=C(C=O)C=C1 | C15H18N2O2
reactant | acetonitrile | 30 mL | C(C)#N | C2H3N
reactant | NaHSO3 | 11.0 mol, 1.14 g, 1.1 eq | OS(=O)[O-].[Na+]
solvent | water | 2.0 mL | O | H2O
solvent | water | 1.0 mL | O | H2O
product | Sodium [4-(4-Cyclopropyl-piperazine-1-carbonyl)-phenyl]-hydroxy-methanesulfonate | C1(CC1)N1CCN(CC1)C(=O)C1=CC=C(C=C1)C(S(=O)(=O)[O-])O.[Na+] | InChI=1S/C15H20N2O5S.Na/c18-14(17-9-7-16(8-10-17)13-5-6-13)11-1-3-12(4-2-11)15(19)23(20,21)22;/h1-4,13,15,19H,5-10H2,(H,20,21,22);/q;+1/p-1
